US04125621
Thioxanthene-9-one-4-carboxylic acid (356-19)
This compound was prepared by adding dropwise a solution of thioxanthene in n-butylether to a solution of n-butyllithium in hexane. The intermediate product was carbonated with dry ice and acidified with hydrochloric acid. The final product had a melting point of greater than 300° C.

reactant | thioxanthene | C1=CC=CC=2SC3=CC=CC=C3CC12 | C13H10S
reactant | n-butyllithium | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
reactant | n-butylether | C(CCC)OCCCC | C8H18O
solvent | hexane | CCCCCC | C6H14
product | Thioxanthene-9-one-4-carboxylic acid | C1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)C(=O)O | C14H8O3S
